US07846960B2
Trifluoro-methanesulfonic acid 2-(4-methoxy-phenyl)-benzo[b]thiophen-6-yl Ester
To a solution of 2-(4-methoxy-phenyl)-benzo[b]thiophen-6-ol (512 mg, 2 mmol) in dichloromethane (20 mL) at 0° C. is added triethylamine (0.58 mL, 5 mmol) and trifluoromethanesulfonic anhydride (0.67 mL, 4 mmol). The reaction is stirred at ambient temperature overnight. The reaction mixture is concentrated and the residue is redissolved in EtOAc, washed with 1N NaOH followed by 1N HCl. The organic layer is concentrated to give the title compound as a tan solid (800 mg, quant.).

reactant | 2-(4-methoxy-phenyl)-benzo[b]thiophen-6-ol | 2 mmol, 512 mg | COC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)O | C15H12O2S
reactant | triethylamine | 5 mmol, 0.58 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 4 mmol, 0.67 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Trifluoro-methanesulfonic acid 2-(4-methoxy-phenyl)-benzo[b]thiophen-6-yl Ester | 800 mg | COC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)OS(=O)(=O)C(F)(F)F | C16H11F3O4S2
